*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/6.80e-02[uF]/50[V]
* Murata P/N :GRM155C71H683KE19
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C71H683KE19 Port1 Port2
C01 Port1 N01 6.73e-08
R01 Port1 N01 7.35e+08
L02 N01 N02 1.98e-10
R03 N02 N03 1.56e-02
C04 N03 N04 1.29e-05
R04 N03 N04 2.66e+02
C05 N04 N05 2.55e-05
R05 N04 N05 3.06e+01
C06 N05 N06 1.84e-05
R06 N05 N06 7.16e+00
C07 N06 N07 1.78e-05
R07 N06 N07 1.24e+00
C08 N07 N08 1.49e-05
R08 N07 N08 2.74e-01
C09 N08 N09 1.34e-05
R09 N08 N09 4.87e-02
C10 N09 N10 9.85e-06
R10 N09 N10 1.50e-02
L11 N10 N11 1.84e-11
R11 N10 N11 1.30e-01
L12 N11 N12 9.71e-11
R12 N11 N12 7.87e-02
C13 N12 N13 5.24e-07
L13 N12 N13 1.27e-11
R13 N12 N13 1.10e-02
C14 N13 N14 1.79e-07
L14 N13 N14 1.99e-11
R14 N13 N14 2.35e-02
C15 N14 Port2 8.53e-12
L15 N14 Port2 3.67e-11
R15 N14 Port2 3.63e+00
.ENDS GRM155C71H683KE19
